US08236835B2
Synthesis of 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)pyrrolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 8, making variations as required to use 3-(4-(trifluoromethoxy)benzyl)pyrrolidin-2-one in place of 3-(4-fluorobenzyl)pyrrolidin-2-one to react with 2-bromo-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide, the title compound was obtained as a white solid in 34% yield: mp 158-160° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 8.58 (s, 1H), 8.49 (d, J=4.0 Hz, 1H), 7.68 (d, J=7.8 Hz, 1H), 7.31-7.06 (m, 5H), 6.43 (t, J=5.7 Hz, 1H), 4.58 (d, J=5.7 Hz, 2H), 4.06 (ddd, J=11.5, 8.0, 3.1 Hz, 1H), 3.86 (td, J=11.5, 8.0 Hz, 1H), 3.23 (dd, J=13.9, 4.4 Hz, 1H), 3.08-2.94 (m, 1H), 2.83-2.74 (m, 1H), 2.60 (s, 3H), 2.34-2.19 (m, 1H), 1.94-1.87 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 174.6, 162.5, 155.4, 153.2, 149.3, 148.9, 148.0, 138.1, 136.9, 135.7, 133.9, 130.3, 123.7, 121.2, 118.3, 45.9, 44.3, 41.5, 35.7, 24.3, 17.3; MS (ES+) m/z 491.3 (M+1).

reactant | 3-(4-(trifluoromethoxy)benzyl)pyrrolidin-2-one | FC(OC1=CC=C(CC2C(NCC2)=O)C=C1)(F)F | C12H12F3NO2
reactant | 2-bromo-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | BrC=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1 | C11H10BrN3OS
product | 4-methyl-2-(2-oxo-3-(4-(trifluoromethoxy)benzyl)pyrrolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 34% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C(C(CC1)CC1=CC=C(C=C1)OC(F)(F)F)=O | C23H21F3N4O3S
